US07417060B2
To a solution of methyl 4′[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-3-nitro-4-biphenylcarboxylate (1.44 g) in ethanol (30 ml) and water (10 ml) were added iron (406 mg) and ammonium chloride (65 mg) and stirred under reflux for 1.5 hours. The mixture was filtrated through Celite pad and evaporated. The residue was dissolved with ethyl acetate, chloroform and methanol, washed with saturated sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate and evaporated to give methyl 3-amino-4′-[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-4-biphenylcarboxylate (1.18 g).

reactant | methyl 4′[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-3-nitro-4-biphenylcarboxylate | 1.44 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)[N+](=O)[O-])C[C@H](OC1OCCCC1)C1=CC=CC=C1 | C36H38N2O6
reactant | ammonium chloride | 65 mg | [Cl-].[NH4+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
catalyst | iron | 406 mg | [Fe] | Fe
product | methyl 3-amino-4′-[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]amino]ethyl]-4-biphenylcarboxylate | 1.18 g | NC=1C=C(C=CC1C(=O)OC)C1=CC=C(C=C1)CCN(C[C@H](OC1OCCCC1)C1=CC=CC=C1)CC1=CC=CC=C1 | C36H40N2O4
